US06166011
Benzyl N-[2-([(2S)-1-(1,3-benzoxazol-2-yl)-2-piperidinyl]carbonylamino) ethyl]carbamate (480.6 mg) [see Preparation 4] was dissolved in metanol (20 ml) and 10% palladium on charcoal (48 mg) was added. The reaction mixture was then hydrogenated at 4 atmospheres (60 p.s.i.) at room temperature for 3 hours, after which time the mixture was filtered and the solvent removed under reduced pressure. The product was then azeotroped with dichloromethane to afford (2S)-N2 -(2-aminoethyl)-1-(1,3-benzoxazol-2-yl)-2-piperidinecarboxamide (296 mg) as a colourless liquid.

reactant | Benzyl N-[2-([(2S)-1-(1,3-benzoxazol-2-yl)-2-piperidinyl]carbonylamino) ethyl]carbamate | 480.6 mg | O1C(=NC2=C1C=CC=C2)N2[C@@H](CCCC2)C(=O)NCCNC(OCC2=CC=CC=C2)=O | C23H26N4O4
solvent | metanol | 20 ml | CO | CH4O
catalyst | palladium on charcoal | 48 mg | [Pd] | Pd
product | (2S)-N2 -(2-aminoethyl)-1-(1,3-benzoxazol-2-yl)-2-piperidinecarboxamide | 296 mg | NCCNC(=O)[C@H]1N(CCCC1)C=1OC2=C(N1)C=CC=C2 | C15H20N4O2
